US06777440B2
Compound B-3: (Z)-2,2-Dimethyl-5-(tert-butyldimethylsilyloxycarbonyl-methylene)-1,3-dioxolane
The solution of crude 4-bromo-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldimethylsilyl ester (72.4 mmol) in carbon tetrachloride (˜220 ml) was cooled to 0-5° C. and treated dropwise over 10 minutes and under good stirring with a solution of 1,8-diazabicyclo [5,4,0]undec-7-ene (12.1 g, 79.6 mmol) in dry tetrahydrofuran (125 ml). A heavy precipitate was formed which gradually became a granular solid. After 1 h, the solid obtained was filtered and washed with a small amount of tetrahydrofuran. The filtrate was concentrated under reduced pressure to give a light orange oil which was used as such for the next step.

reactant | 4-bromo-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldimethylsilyl ester | 72.4 mmol | BrC1(OC(OC1=O)(C)C)CC(=O)O[Si](C)(C)C(C)(C)C | C13H23BrO5Si
reactant | 1,8-diazabicyclo [5,4,0]undec-7-ene | 79.6 mmol, 12.1 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | carbon tetrachloride | ˜220 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | (Z)-2,2-Dimethyl-5-(tert-butyldimethylsilyloxycarbonyl-methylene)-1,3-dioxolane | CC1(O\C(\CO1)=C/C(=O)O[Si](C)(C)C(C)(C)C)C | C13H24O4Si
